US05302718
Methyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)-sulfonyl]phenyl]-ethenyl]benzoate
This compound was prepared analogously to Example 3 from 4-iodo-N-(3-methyl-2-pyridinyl)-benzenesulfonamide, prepared according to Example 2a, and methyl 5-ethenyl-2-hydroxybenzoate prepared according to Example 3a. Yield 52%.

reactant | 4-iodo-N-(3-methyl-2-pyridinyl)-benzenesulfonamide | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C12H11IN2O2S
reactant | methyl 5-ethenyl-2-hydroxybenzoate | C(=C)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O3
product | Methyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)-sulfonyl]phenyl]-ethenyl]benzoate | Yield 52% | OC1=C(C(=O)OC)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C22H20N2O5S
